US08420632B2
280 mg (0.85 mmol) of cesium carbonate followed by 160 mg (0.85 mmol) of 4-chloromethyl-2-methylquinoline and by 15 mg of potassium iodide are added to a solution of 300 mg (0.71 mmol) of methyl (S)-3-(4-hydroxybenzenesulfonylamino)-2-(4-methanesulfonylpiperazin-1-yl)propanoate in 10 ml of acetone. The reaction medium is stirred at ambient temperature for 18 h, filtered and concentrated under vacuum. The crude product is purified by chromatography on silica gel, elution being carried out with a 40/60 heptane/ethyl acetate mixture. 130 mg (32%) of methyl (S)-2-(4-methanesulfonylpiperazin-1-yl)-3-[4-(2-methylquinolin-4-ylmethoxy)benzenesulfonylamino]propanoate are obtained in the form of a white solid.

reactant | cesium carbonate | 0.85 mmol, 280 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-chloromethyl-2-methylquinoline | 0.85 mmol, 160 mg | ClCC1=CC(=NC2=CC=CC=C12)C | C11H10ClN
reactant | potassium iodide | 15 mg | [I-].[K+]
reactant | methyl (S)-3-(4-hydroxybenzenesulfonylamino)-2-(4-methanesulfonylpiperazin-1-yl)propanoate | 0.71 mmol, 300 mg | OC1=CC=C(C=C1)S(=O)(=O)NC[C@@H](C(=O)OC)N1CCN(CC1)S(=O)(=O)C | C15H23N3O7S2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | methyl (S)-2-(4-methanesulfonylpiperazin-1-yl)-3-[4-(2-methylquinolin-4-ylmethoxy)benzenesulfonylamino]propanoate | 130 mg, 32% | CS(=O)(=O)N1CCN(CC1)[C@H](C(=O)OC)CNS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C | C26H32N4O7S2
